US04818761
(c) Preparation of 1-isoamyl-2-(4-pyridylaminomethyl)benzimidazole hydrochloride
1-isoamyl-2-chloromethylbenzimidazole (2.9 g, 12.2 mmol) prepared in the preceding step (b), 4-aminopyridine (3.9 g, 22.5 mmol) and ethanol (24 ml) were refluxed. After concentration of the reaction mixture in vacuo, the product was crystallized from acetone (2.9 g, 9.0 mmol) and recrystallized from ethanol, than the objective compound (1.5 g, 4.5 mmol) was obtained.

reactant | 1-isoamyl-2-chloromethylbenzimidazole | 12.2 mmol, 2.9 g | C(CC(C)C)N1C(=NC2=C1C=CC=C2)CCl | C13H17ClN2
reactant | 4-aminopyridine | 22.5 mmol, 3.9 g | NC1=CC=NC=C1 | C5H6N2
reactant | acetone | 9.0 mmol, 2.9 g | CC(=O)C | C3H6O
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 24 ml | C(C)O | C2H6O
product | 1-isoamyl-2-(4-pyridylaminomethyl)benzimidazole hydrochloride | Cl.C(CC(C)C)N1C(=NC2=C1C=CC=C2)CNC2=CC=NC=C2 | InChI=1S/C18H22N4.ClH/c1-14(2)9-12-22-17-6-4-3-5-16(17)21-18(22)13-20-15-7-10-19-11-8-15;/h3-8,10-11,14H,9,12-13H2,1-2H3,(H,19,20);1H
